US06008229
To a suspension of 1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]-2-[(E)-3-(6-ethoxycarbonylpyridin-3-yl)acryloylaminomethyl]pyrrole (116 mg) in ethanol was added 1N sodium hydroxide solution (0.3 ml) at ambient temperature, and the mixture was stirred at 50° C. for 2 hours. The solvent was removed in vacuo, and the residue was dissolved in water. The aqueous solution was washed with diethyl ether and adjusted to pH 5 with 1N hydrochloric acid. The resulting precipitates were collected by filtration and washed with water and diethyl ether to give 2-[(E)-3-(6-carboxypyridin-3-yl)acryloylaminomethyl]-1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]pyrrole (77 mg) as amorphous powder.

reactant | 1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]-2-[(E)-3-(6-ethoxycarbonylpyridin-3-yl)acryloylaminomethyl]pyrrole | 116 mg | ClC1=C(C=CC(=C1COC=1C=CC=C2C=CC(=NC12)C)Cl)N1C(=CC=C1)CNC(\C=C\C=1C=NC(=CC1)C(=O)OCC)=O | C33H28Cl2N4O4
reactant | sodium hydroxide | 1N, 0.3 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[(E)-3-(6-carboxypyridin-3-yl)acryloylaminomethyl]-1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]pyrrole | 77 mg | C(=O)(O)C1=CC=C(C=N1)/C=C/C(=O)NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)COC=1C=CC=C2C=CC(=NC12)C)Cl | C31H24Cl2N4O4
